US06451740B2
Into 10 ml of boron trifluoride methanol complex, methanol solution was added 0.25 g of methyl [2-(5-acetylamino-2-chloro-4-fluorophenoxy)phenoxy]acetate, and the mixture was heated for 3 hours while stirring. Thereafter, the reaction solution was concentrated, the residue was dissolved in ethyl acetate, and washed with saturated aqueous sodium bicarbonate, dried over magnesium sulfate, and concentrated to obtain 0.2 g of methyl [2-(5-amino-2-chloro-4-fluorophenoxy)phenoxy]acetate [Intermediate compound A3-22].

reactant | methyl [2-(5-acetylamino-2-chloro-4-fluorophenoxy)phenoxy]acetate | 0.25 g | C(C)(=O)NC=1C(=CC(=C(OC2=C(OCC(=O)OC)C=CC=C2)C1)Cl)F | C17H15ClFNO5
solvent | methanol | CO | CH4O
product | methyl [2-(5-amino-2-chloro-4-fluorophenoxy)phenoxy]acetate | 0.2 g | NC=1C(=CC(=C(OC2=C(OCC(=O)OC)C=CC=C2)C1)Cl)F | C15H13ClFNO4
